US07125901B2
tert-Butyl [4-(2-{2-(acetylamino)-5-[4-(methylsulfonyl)benzyl]-1,3-thiazol-4-yl}ethyl)phenyl]carbamate (230 mg), 1N-NaOH (1.09 ml) and EtOH (5 ml) were combined, and the mixture was refluxed for 16 hours. After cooled to r.t., the organic solvent was removed in vacuo. The aqueous solution was neutrallized with 1N-HCl, and extracted with AcOEt. The organic layer was washed with water and brine, dried over anhydrous MgSO4, and concentrated in vacuo. The residue was purified by preparative silica gel chromatography with CHCl3/MeOH (30:1) as an eluent to give tert-butyl [4-(2-{2-amino-5-[4-(methylsulfonyl)benzyl]-1,3-thiazol-4-yl}ethyl)phenyl]carbamate (151.2 mg) as an off-white amorphous substance.

reactant | tert-Butyl [4-(2-{2-(acetylamino)-5-[4-(methylsulfonyl)benzyl]-1,3-thiazol-4-yl}ethyl)phenyl]carbamate | 230 mg | C(C)(=O)NC=1SC(=C(N1)CCC1=CC=C(C=C1)NC(OC(C)(C)C)=O)CC1=CC=C(C=C1)S(=O)(=O)C | C26H31N3O5S2
reactant | NaOH | 1.09 ml | [OH-].[Na+]
solvent | EtOH | 5 ml | CCO | C2H6O
product | tert-butyl [4-(2-{2-amino-5-[4-(methylsulfonyl)benzyl]-1,3-thiazol-4-yl}ethyl)phenyl]carbamate | 151.2 mg | NC=1SC(=C(N1)CCC1=CC=C(C=C1)NC(OC(C)(C)C)=O)CC1=CC=C(C=C1)S(=O)(=O)C | C24H29N3O4S2
